US07452893B2
To a solution of crude butyl cis-4-{[(methylsulfonyl)oxy]methyl}-cyclohexane carboxylate (35.3 g, 117 mmol) in dimethylformamide (146 ml) was added sodium azide (30.4 g, 468 mmol, 4 equiv.). The mixture was stirred under nitrogen at 80° C. for eight hours. Approximately one-half of the dimethylformamide was distilled off (80° C. oil bath, 3.5 mm). The residue was diluted with water (750 ml) and extracted with ether (3×250 ml). The combined extract was washed with water (2×100 ml) and brine (100 ml), dried (sodium sulfate), filtered, and the solvent was evaporated under reduced pressure to give crude butyl cis-4-(azidomethyl)cyclohexanecarboxylate (26.80 g, 98%) as a yellow oil.

reactant | butyl cis-4-{[(methylsulfonyl)oxy]methyl}-cyclohexane carboxylate | 117 mmol, 35.3 g | CS(=O)(=O)OC[C@H]1CC[C@H](CC1)C(=O)OCCCC | C13H24O5S
reactant | sodium azide | 468 mmol, 30.4 g, 4 equiv. | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 146 ml | CN(C=O)C | C3H7NO
product | butyl cis-4-(azidomethyl)cyclohexanecarboxylate | 26.80 g, 98% | N(=[N+]=[N-])C[C@H]1CC[C@H](CC1)C(=O)OCCCC | C12H21N3O2
